US08334237B2
4-(Isopropoxyiminomethyl)-2,5-dimethylaniline
0.32 g (2.10 mmol) of 4-amino-2,5-dimethylbenzaldehyde is initially charged in 10 ml of methanol, 0.31 g (2.73 mmol) of O-isopropyl hydroxylamine hydrochloride is added at room temperature and the reaction mixture is heated under reflux for 6 h. The mixture is then concentrated using a rotary evaporator, the residue is taken up in dichloromethane, extracted twice with water, dried over Na2SO4 and freed from the solvent under reduced pressure. This gives 0.35 g of product (purity 98.0%, yield 79.1%, log P (pH 2.3)=2.77).

reactant | 4-amino-2,5-dimethylbenzaldehyde | 2.10 mmol, 0.32 g | NC1=CC(=C(C=O)C=C1C)C | C9H11NO
reactant | O-isopropyl hydroxylamine hydrochloride | 2.73 mmol, 0.31 g | Cl.C(C)(C)ON
solvent | methanol | 10 ml | CO | CH4O
product | 4-(Isopropoxyiminomethyl)-2,5-dimethylaniline | 0.35 g, pH 2.3, yield 79.1% | C(C)(C)ON=CC1=CC(=C(N)C=C1C)C | C12H18N2O
